US09428465B2
Step 3. Preparation of N-hexyl-2,4-dioxo-5-(3-pyridyl)pyrimidine-1-carboxamide
The title compound was obtained according, to the procedure described for the synthesis of Example 1, starting from 5-(3-pyridyl)-1H-pyrimidine-2,4-dione (0.067 g, 0,198 mmol). Herein, 2 equivalents of DMAP and 2.7 equivalents of hexyl isocyanate in 4 mL pyridine were used. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 40:60) to afford the title compound (0.04 g, 57%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 0.90 (t, J=6.0 Hz, 3H), 1.29-1.41 (m, 6H), 1.58-1.67 (m, 2H), 3.42 (dt, J=7.1, 5.5 Hz, 2H), 7.37 (ddd, J=8.0, 4.9, 0.9 Hz, 1H), 7.97 (td, J=8.0, 2.0 Hz, 1H), 8.64 (dd, J=4.9, 1.7 Hz, 1H), 8.66 (s, 1H), 8.80 (dd, J=2.4, 0.9 Hz, 1H), 9.11 (t, J=5.0 Hz, 1H), 9.21 (s, 1H). 13C NMR (101 MHz, CDCl3): δ 14.13, 22.66, 26.64, 29.29, 31.51, 41.58, 77.16, 113.74, 123.50, 127.93, 136.39, 136.58, 148.70, 149.48, 149.74, 151.09, 161.30. MS (ESI) m/z: 317 (M-Hr.

reactant | 5-(3-pyridyl)-1H-pyrimidine-2,4-dione | 0,198 mmol, 0.067 g | N1=CC(=CC=C1)C=1C(NC(NC1)=O)=O | C9H7N3O2
reactant | hexyl isocyanate | 2.7 equivalents | C(CCCCC)N=C=O | C7H13NO
catalyst | DMAP | 2 equivalents | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | N-hexyl-2,4-dioxo-5-(3-pyridyl)pyrimidine-1-carboxamide | 0.04 g, 57% | C(CCCCC)NC(=O)N1C(NC(C(=C1)C=1C=NC=CC1)=O)=O | C16H20N4O3
